US06831080B2
Preparation of 1,2,3,4-tetrahydro-7-[1-(hydroxyimino)ethyl]isoquinoline-2-carboxylic acid, methyl ester
A mixture of 7-acetyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid methyl ester, Preparation 8 (11.65 g, 50 mmol), ammonium hydroxide hydrochloride (7 g, 100 mmol) and sodium hydroxide (10N) (10 mL, 100 mmol) in THF (50 mL) was heated under reflux for 24 hours. The reaction mixture was cooled to room temperature, concentrated in vacuo, and extracted with CH2Cl2 (3×50 mL). The combined organic layers were dried over anhydrous magnesium sulfate, filtered, and the resultant filtrate was concentrated in vacuo. The residue obtained was purified by flash column chromatography on silica eluted with hexane/EtOAc (1:1) to provide the title compound as an oil (11.7 g, 94%).

reactant | 7-acetyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid methyl ester | COC(=O)N1CC2=CC(=CC=C2CC1)C(C)=O | C13H15NO3
reactant | ammonium hydroxide hydrochloride | 100 mmol, 7 g | Cl.[OH-].[NH4+]
reactant | sodium hydroxide | 100 mmol, 10N, 10 mL | [OH-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1,2,3,4-tetrahydro-7-[1-(hydroxyimino)ethyl]isoquinoline-2-carboxylic acid, methyl ester | 11.7 g, 94% | ON=C(C)C1=CC=C2CCN(CC2=C1)C(=O)OC | C13H16N2O3
